US07524813B2
To a mixture of [(S)-1-carbamoyl-2-(4-hydroxyphenyl)ethyl]-carbamic acid tert-butyl ester (3.00 g, 10.7 mmol) and potassium carbonate (7.40 g, 53.5 mmol) in N,N-dimethylformamide (50 ml) were added subsequently chloroacetone (1.02 ml, 12.8 mmol) and tetrabutylammonium iodide (197 mg, 0.54 mmol). The reaction mixture was heated to 90° C. for 16 h and cooled to room temperature. It was diluted with water (100 ml) and acidified with a 10% solution of sodium hydrogensulphate to pH 2. Ethyl acetate (300 ml) was added. The phases were separated. The organic layer was washed with water (3×150 ml) and dried over magnesium sulphate. The solvent was removed in vacuo to give 2.65 g of {(S)-1-carbamoyl-2-[4-(2-oxopropoxy)phenyl]ethyl}carbamic acid tert-butyl ester.

reactant | [(S)-1-carbamoyl-2-(4-hydroxyphenyl)ethyl]-carbamic acid tert-butyl ester | 10.7 mmol, 3.00 g | C(C)(C)(C)OC(N[C@@H](CC1=CC=C(C=C1)O)C(N)=O)=O | C14H20N2O4
reactant | potassium carbonate | 53.5 mmol, 7.40 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloroacetone | 12.8 mmol, 1.02 ml | ClCC(C)=O | C3H5ClO
reactant | sodium hydrogensulphate | S(=O)(=O)(O)[O-].[Na+]
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
catalyst | tetrabutylammonium iodide | 0.54 mmol, 197 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 100 ml | O | H2O
solvent | Ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | {(S)-1-carbamoyl-2-[4-(2-oxopropoxy)phenyl]ethyl}carbamic acid tert-butyl ester | 2.65 g | C(C)(C)(C)OC(N[C@@H](CC1=CC=C(C=C1)OCC(C)=O)C(N)=O)=O | C17H24N2O5
